US04806536
N-{4-[2-(4-[4-pyridinyl]-1-piperazinyl)ethyl]phenyl}methanesulphonamide
A solution of 1-(4-pyridinyl)piperazine (1.63 g), N-[4-(2-methylsulphonyloxyethyl)phenyl]methanesulphonamide (2.93 g) and triethylamine (1.01 g) in ethanol (25 ml) was heated under reflux for 18 hours and then evaporated. The resulting oil was partitioned between dichloromethane and water (some insoluble material remained in the aqueous layer). The aqueous layer was washed with dichloromethane and the organic layers were combined, washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed in silica gel. Elution with dichloromethane/methanol (19:1) first gave some impurity followed by a solid which was crystallised from methanol/ethyl acetate to give the title compound (0.75 g), m.p. 208°-210° C.

reactant | 1-(4-pyridinyl)piperazine | 1.63 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | N-[4-(2-methylsulphonyloxyethyl)phenyl]methanesulphonamide | 2.93 g | CS(=O)(=O)OCCC1=CC=C(C=C1)NS(=O)(=O)C | C10H15NO5S2
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-{4-[2-(4-[4-pyridinyl]-1-piperazinyl)ethyl]phenyl}methanesulphonamide | 0.75 g | N1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N4O2S
